US03962431
3-Vinyl-5-methyl-2,4-oxazolidinedione was prepared from 5-methyl-2,4-oxazolidinedione by the procedure for making 3-vinyl-2,4-oxazolidinedione in Example 9 hereinafter.

reactant | 5-methyl-2,4-oxazolidinedione | CC1C(NC(O1)=O)=O | C4H5NO3
reactant | 3-vinyl-2,4-oxazolidinedione | C(=C)N1C(OCC1=O)=O | C5H5NO3
product | 3-Vinyl-5-methyl-2,4-oxazolidinedione | C(=C)N1C(OC(C1=O)C)=O | C6H7NO3
